US09062056B2
(R)-3-[5-Cyano-1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-phenyl-propionic acid
To a stirred solution of (R)-3-[5-cyano-1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-phenyl-propionic acid ethyl ester (70 mg, 0.14 mmol) in dioxane (4 ml) and water (2 ml) was added lithium hydroxide monohydrate (12 mg, 0.28 mmol) at room temperature. After stirring for 6 hours the reaction appeared to be complete. The reaction was concentrated to a low volume and diluted with water. The reaction mixture was acidified using acetic acid and the resulting precipitate was collected via filtration. The solid was purified once by silica gel flash column chromatography (12 g silica gel, 0-10% MeOH/Dichloromethane) and then again by preparative TLC (2×0.5 mm silica gel, 5% MeOH/Dichloromethane) to afford 25 mg (31%) of the title compound. LCMS, M++1, m/z: 466.43.

reactant | (R)-3-[5-cyano-1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-phenyl-propionic acid ethyl ester | 0.14 mmol, 70 mg | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(N(C=2C1=NC(=CC2)C#N)CC2=CN(C1=CC=CC(=C21)C)C)=O)=O | C29H27N5O3
reactant | lithium hydroxide monohydrate | 0.28 mmol, 12 mg | O.[OH-].[Li+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | (R)-3-[5-Cyano-1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-yl]-3-phenyl-propionic acid | 25 mg, 31% | C(#N)C1=CC=C2C(=N1)N(C(N2CC2=CN(C1=CC=CC(=C21)C)C)=O)[C@H](CC(=O)O)C2=CC=CC=C2 | C27H23N5O3
